US09353081B2
[D] 6-Bromo-8-fluoro-1-methyl-3,4-dihydro-1H-quinolin-2-one
A solution of 6-bromo-8-fluoro-3,4-dihydro-1H-quinolin-2-one (0.21 g, 0.86 mmol) in DMF (2 mL) was treated with potassium tert-butoxide (0.19 g, 1.72 mmol) at 0° C. The resulting mixture was stirred at 0° C. for 30 min before methyl iodide (0.18 g, 1.29 mmol) was added. After stirring for 2 h, the reaction mixture was treated with water, extracted with EtOAc, washed with water and brine in sequence, and dried over anhy. Na2SO4. After removal of the solvents under reduced pressure, the crude product (0.18 g, 80% yield) was obtained as a white solid. MS: 258.0 (M+H)+.

reactant | 6-bromo-8-fluoro-3,4-dihydro-1H-quinolin-2-one | 0.86 mmol, 0.21 g | BrC=1C=C2CCC(NC2=C(C1)F)=O | C9H7BrFNO
reactant | potassium tert-butoxide | 1.72 mmol, 0.19 g | CC(C)([O-])C.[K+]
reactant | methyl iodide | 1.29 mmol, 0.18 g | CI | CH3I
reactant | water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 6-Bromo-8-fluoro-1-methyl-3,4-dihydro-1H-quinolin-2-one | 0.18 g, 80% yield | BrC=1C=C2CCC(N(C2=C(C1)F)C)=O | C10H9BrFNO
